US06255323B1
2-(2-Aminoethoxy)ethanol (5.26 g, 50 mmol) and sodium hydroxide (2.1 g, 52.5 mmol) were dissolved in water (200 mL). The resulted solution was cooled in ice bath, followed by the dropwise addition of benzyl chloroformate. After the addition, the reaction mixture was continuously stirred in ice bath for another hour. The desired product was extracted with ethyl acetate (EtOAc, 200 mL). The EtOAc layer was washed with water (3×100 mL) and then dried over anhydrous sodium sulfate. The solvent was removed in vacuo to yield the crude product. The product was further purified by flash column chromatography (SiO2, 1:2 Hexane:EtOAc) to give [2-(2-hydroxy-ethoxy)-ethyl]-carbamic acid benzyl ester as a clear oil (8.07 g, 67.5% yield). 1H-NMR (CDCl3, ppm) 7.35 (m, 5H), 5.34 (b, 1H), 5.10 (s, 2H), 3.71 (m, 2H), 3.56 (m, 4H), 3.41 (m, 2H), 2.20 (b 1H),. ESMS 240.0 (M+1).

reactant | 2-(2-Aminoethoxy)ethanol | 50 mmol, 5.26 g | NCCOCCO | C4H11NO2
reactant | sodium hydroxide | 52.5 mmol, 2.1 g | [OH-].[Na+]
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 200 mL | O | H2O
product | [2-(2-hydroxy-ethoxy)-ethyl]-carbamic acid benzyl ester | 8.07 g, 67.5% yield | C(C1=CC=CC=C1)OC(NCCOCCO)=O | C12H17NO4
